US04889855
b. 2-Ethoxalylamino-1.8-dinitronaphthalene
2-Ethoxalylamino-1-nitronaphthalene (11.5 g, 0.04 mol) was dissolved in 80 ml of sulfuric acid (d 1.84) by portionwise addition, with vigorous stirring on an ice-bath. Nitric acid (1.66 ml, 0.04 mol, d 1.52) in 20 ml of sulfuric acid (d 1.84) was added dropwise during 1 h at 0° C., and the mixture was stirred at this temperature for a further hour. The mixture was cautiously poured into 600 ml of ice/water with vigorous stirring. The yellow solid was collected, washed with water, and boiled with 300 ml of ethanol. The hot suspension was filtered and the undissolved residue was washed with 200 ml of ether to yield 7.35 g (55%) of the title compound,

reactant | 2-Ethoxalylamino-1-nitronaphthalene | 0.04 mol, 11.5 g | C(=O)(C(=O)OCC)NC1=C(C2=CC=CC=C2C=C1)[N+](=O)[O-] | C14H12N2O5
reactant | Nitric acid | 0.04 mol, 1.66 ml | [N+](=O)(O)[O-] | HNO3
solvent | sulfuric acid | 80 ml | S(O)(O)(=O)=O | H2O4S
solvent | sulfuric acid | 20 ml | S(O)(O)(=O)=O | H2O4S
product | 2-Ethoxalylamino-1.8-dinitronaphthalene | 7.35 g, 55% | C(=O)(C(=O)OCC)NC1=C(C2=C(C=CC=C2C=C1)[N+](=O)[O-])[N+](=O)[O-] | C14H11N3O7
